US04092415
While stirring at -10° to 0° C, 92 g of freshly distilled diketene are added dropwise to a solution of 400 ml of methanol and 56 g of freshly distilled aminoacetonitrile. The mixture is allowed to warm to room temperature and stirring is continued for 2 hours at 35° C in a water bath. The solvent is distilled off by rotary evaporation and the solid residue is suspended in cold ether. Suction filtration yields the colourless, crystalline, pure acetoacetic N-cyanomethylamide with a melting point of 63°-65° C.

reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | aminoacetonitrile | NCC#N | C2H4N2
solvent | methanol | 400 ml | CO | CH4O
product | acetoacetic N-cyanomethylamide | C(#N)CNC(CC(=O)C)=O | C6H8N2O2
